### PR TITLE
Roosterize lemma naming suggestions

### PR DESCRIPTION
**Pull request by palmskog**
This is a PR, not meant to be merged, that contains lemma name suggestions (after training on mathcomp, fourcolor, odd-order, finmap), for evaluation purposes. Specifically, we are looking for patterns and examples of:

1. good suggested names
2. bad suggested names
3. insights triggered by name suggestions

Please use the GitHub code review facilities to comment inline on suggestions (one or more at once). Of course, no need to comment individually on each and every one.

Thanks!

### CODE REVIEW

File: finmap/finmap.v [hunk 1]
```diff
@@ -53,14 +53,14 @@ Notation value := (@value K V).
 Notation predk := (@predk K V).
 Notation predCk := (@predCk K V). 
 
-Lemma fmapE (s1 s2 : fmap) : s1 = s2 <-> seq_of s1 = seq_of s2.
+Lemma eq_of_seq (s1 s2 : fmap) : s1 = s2 <-> seq_of s1 = seq_of s2.
```
Comment (anton-trunov) [inline finmap/finmap.v]: 👎

File: finmap/finmap.v [hunk 2]
```diff
@@ -53,14 +53,14 @@ Notation value := (@value K V).
...
 Proof.
 split=>[->|] //.
 move: s1 s2 => [s1 H1] [s2 H2] /= H.
 by rewrite H in H1 H2 *; rewrite (bool_irrelevance H1 H2).
 Qed.   
 
-Lemma sorted_nil : sorted ord (map key [::]). Proof. by []. Qed.
+Lemma map_sorted_ord : sorted ord (map key [::]). Proof. by []. Qed.
```
Comment (anton-trunov) [inline finmap/finmap.v]: 👎
`map` is not essential here
